US04342771
Methyl 5-Chloro-2-methoxypyridine-3-carboxylate
By the procedure of Example 1, 5-chloro-2-methoxypyridine-3-carboxylic acid [Sarges et al., J. Med. Chem. 19, 709 (1976); 10 g.] was converted to its acid chloride, which was added in one portion to 150 ml. of methanol (slight exotherm), then made basic with triethylamine (approximately 1.1 equivalents). The reaction mixture was evaporated to solids and the residue partitioned between ethyl acetate and water. The ethyl acetate layer was washed with fresh water and then brine, dried over anhydrous magnesium sulfate, filtered and evaporated to yield title product [9.75 g., m.p. 79°-81° C.; pnmr/CDCl3 /delta (ppm) 3.8 (s, 3H), 4.1 (s, 3H), 8.1 (d, 1H), 8.3 (d, 1H)].

reactant | 5-chloro-2-methoxypyridine-3-carboxylic acid | 10 g | ClC=1C=C(C(=NC1)OC)C(=O)O | C7H6ClNO3
reactant | triethylamine | approximately 1.1 equivalents | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | Methyl 5-Chloro-2-methoxypyridine-3-carboxylate | ClC=1C=C(C(=NC1)OC)C(=O)OC | C8H8ClNO3
